US08466186B2
N-{4-Chloro-3-[5-chloro-1-methyl-6-(4-phenyl-piperidin-1-yl)-1H-benzimidazol-2-ylamino]-benzyl}-1-trifluoromethyl-cyclopropanamide
A mixture of N-(4-chloro-3-isothiocyanatobenzyl)-1-(trifluoromethyl)cyclopropane carboxamide (200 mg; 0.60 mmol) and 5-chloro-2-methylamino-4-(4-phenyl-piperidin-1-yl)aniline (190 mg; 0.60 mmol) in DMF (4 mL) was stirred overnight at rt. DIC (76 mg; 0.60 mmol) was added and the mixture was heated at 90° C. for 1.5 h. The mixture was poured in water, extracted with EtOAc and the combined organic layer was dried over Na2SO4, filtered and concentrated and the residue was purified by column chromatography.

reactant | N-(4-chloro-3-isothiocyanatobenzyl)-1-(trifluoromethyl)cyclopropane carboxamide | 0.60 mmol, 200 mg | ClC1=C(C=C(CNC(=O)C2(CC2)C(F)(F)F)C=C1)N=C=S | C13H10ClF3N2OS
reactant | 5-chloro-2-methylamino-4-(4-phenyl-piperidin-1-yl)aniline | 0.60 mmol, 190 mg | ClC=1C(=CC(=C(N)C1)NC)N1CCC(CC1)C1=CC=CC=C1 | C18H22ClN3
reactant | DIC | 0.60 mmol, 76 mg | CC(N=C=NC(C)C)C | C7H14N2
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | N-{4-Chloro-3-[5-chloro-1-methyl-6-(4-phenyl-piperidin-1-yl)-1H-benzimidazol-2-ylamino]-benzyl}-1-trifluoromethyl-cyclopropanamide | ClC1=C(C=C(CNC(=O)C2(CC2)C(F)(F)F)C=C1)NC1=NC2=C(N1C)C=C(C(=C2)Cl)N2CCC(CC2)C2=CC=CC=C2 | C31H30Cl2F3N5O
